US05418292
40.6 grams of ethanolamine were charged to a standard neck reaction vessel fitted with an agitator, packed column and a thermometer. 70.3 grams of ethylene carbonate was added, and the temperature was allowed to rise to 100° C. The mixture was then held at 100° C. for 2 hours. The crude 2-hydroxyethyl urethane of ethanol formed had a viscosity of 4.5 poise at 30° C. (as measured by an ICI cone and plate viscometer) and a base number of 3.0. The residual base number corresponded to a conversion of amine to urethane of 99.4%. The mixture was heated to 150° C. and 689.1 grams of dodecanedioic acid were added. The solution was heated slowly to 220° C., with water being removed continuously, over a 1.5 hour period. The reaction product was then cooled and poured out. The final product had a melting point of 81° C. to 84° C.

reactant | ethanolamine | 40.6 grams | C(O)CN | C2H7NO
reactant | ethylene carbonate | 70.3 grams | C1(OCCO1)=O | C3H4O3
solvent | ethanol | C(C)O | C2H6O
product | 2-hydroxyethyl urethane | OCCNC(=O)OCC | C5H11NO3
